US06562811B1
To a cold (0° C.) solution of 3-(benzyloxy)-N-methoxy-N-methyl-2-thiophene-carboxamide (3.47 g, 12.50 mmol) in THF (50 mL) was added a solution of methyl-magnesium bromide in THF (1 M, 35 mL). After being stirred at 0° C. for 1 hr, the reaction mixture was quenched with saturated aqueous NH4Cl solution, diluted with water, and extracted with ethyl acetate. The separated organic phase was washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate/CH2Cl2=3/1/1) followed by recrystallization from n-hexane/ethyl acetate to give 1-[3-(benzyloxy)-2-thienyl]ethanone as a white solid (2.592 g, yield; 89%).

reactant | 3-(benzyloxy)-N-methoxy-N-methyl-2-thiophene-carboxamide | 12.50 mmol, 3.47 g | C(C1=CC=CC=C1)OC1=C(SC=C1)C(=O)N(C)OC | C14H15NO3S
reactant | methyl-magnesium bromide | C[Mg]Br
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 35 mL | C1CCOC1 | C4H8O
product | 1-[3-(benzyloxy)-2-thienyl]ethanone | 2.592 g, yield; 89% | C(C1=CC=CC=C1)OC1=C(SC=C1)C(C)=O | C13H12O2S
